* C:\Users\gasop\Documents\sdsu\Mechatrnics\cap_water_sensor\Mecha_health_system\LTSpice test files\multi_cap_at_once_test.asc
V1 N003 0 3.3
C4 0 0 3.72
S4 N001 0 Vs4 0 SW_1
V2 Vs4 0 PULSE(0 1 5 0 0 15)
S1 N001 N002 Vs1 0 SW_1
S2 N001 0 Vs2 0 SW_1
S3 N001 0 Vs3 0 SW_1
C1 N002 0 3.72
C2 0 0 3.72
C3 0 0 3.72
V3 Vs3 0 PULSE(0 1 6 0 0 14)
V4 Vs2 0 PULSE(0 1 7 0 0 13)
V5 Vs1 0 PULSE(0 1 8 0 0 12)
R1 N002 0 1k
D1 N002 0 1N4007
C5 0 0 3.72
C6 P001 0 3.72
C7 P002 0 3.72
C8 0 0 3.72
S5 N001 0 Vs5 0 SW_1
S6 N001 0 Vs8 0 SW_1
S7 N001 P001 Vs6 0 SW_1
S8 N001 P002 Vs7 0 SW_1
V6 Vs8 0 PULSE(0 1 9 0 0 11)
V7 Vs7 0 PULSE(0 1 10 0 0 10)
V8 Vs6 0 PULSE(0 1 11 0 0 9)
V9 Vs5 0 PULSE(0 1 12 0 0 8)
R2 N003 N001 400m
.model D D
.lib C:\Users\gasop\AppData\Local\LTspice\lib\cmp\standard.dio
.Model SW_1 SW()
.tran 0 100 0 1
* The first of the capacitor to touch the outer lining\nwith the voltage will send voltage thorugh
* Simulating the switch as a water detection
* Capacitor value \n= Area * dielectric / distance-between-plates \n= (0.001)^2 * 4.5 / 0.127m \n~= 3.5cF
.backanno
.end
